US05998433
b) Synthesis of N,N-dimethyl-[6-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.120 g (0.423 mmol) of 6-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 10 ml of acetic acid, 0.046 g (0.51 mmol) of 50% aqueous dimethylamine and 0.041 g (0.51 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 15 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 6-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.423 mmol, 0.120 g | C1(=CC=CC=C1)CCCCCCN1CC2=C(CC1)C=CO2 | C19H25NO
reactant | dimethylamine | 0.51 mmol, 0.046 g | CNC | C2H7N
reactant | formaldehyde | 0.51 mmol, 0.041 g | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[6-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CC2)CCCCCCC2=CC=CC=C2)O1 | C22H32N2O
